US07678803B2
3,6,6-Trimethyl-1,5,6,7-tetrahydro-indol-4-one (0.65 g, 3.68 mmol), sodium hydride (60% in oil, 0.177 g, 4.4 mmol), 7-fluoroquinazolin-2-amine (0.60 g, 3.68 mmol), and N,N-dimethylformamide are sealed in a microwave vessel and irradiated at 150 degrees Celsius for 1500 seconds. The mixture is purified by column chromatography and recrystallized from dichloromethane/hexane, affording 0.96 g of 1-(2-Amino-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one (81%). LC/MS m/z=321 [M+H]+.

reactant | 3,6,6-Trimethyl-1,5,6,7-tetrahydro-indol-4-one | 3.68 mmol, 0.65 g | CC1=CNC=2CC(CC(C12)=O)(C)C | C11H15NO
reactant | sodium hydride | 4.4 mmol, 0.177 g | [H-].[Na+]
reactant | 7-fluoroquinazolin-2-amine | 3.68 mmol, 0.60 g | FC1=CC=C2C=NC(=NC2=C1)N | C8H6FN3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(2-Amino-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one | 0.96 g, 81% | NC1=NC2=CC(=CC=C2C=N1)N1C=C(C=2C(CC(CC12)(C)C)=O)C | C19H20N4O
